US07678801B2
N-[3-(8-(2,6-difluorophenyl)-2-{[2-(methylamino)ethyl]amino}-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl)-4-methylphenyl]-2-thiophenecarboxamide
The title compound was prepared as described in Example 2 from N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-2-thiophenecarboxamide and 1,1-dimethylethyl (2-aminoethyl)methylcarbamate: LC-MS m/z 547 (M+H)+, 1.80 min (ret time).

reactant | N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-2-thiophenecarboxamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C=2SC=CC2)S(=O)(=O)C)=O | C26H18F2N4O4S2
reactant | 1,1-dimethylethyl (2-aminoethyl)methylcarbamate | NCCN(C(OC(C)(C)C)=O)C | C8H18N2O2
product | N-[3-(8-(2,6-difluorophenyl)-2-{[2-(methylamino)ethyl]amino}-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl)-4-methylphenyl]-2-thiophenecarboxamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C=2SC=CC2)NCCNC)=O | C28H24F2N6O2S
